US05658935
{3-[4-(Aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-L-tryptophan methyl ester
403 mg of {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetic acid hydrochloride are coupled with 356.6 mg of L-tryptophan methyl ester hydrochloride by the process described above. After working up and chromatographic purification, 270 mg of {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-L-tryptophan methyl ester are obtained.

reactant | {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetic acid hydrochloride | 403 mg | Cl.NN=CC1=CC=C(CC2C(N(C(C2)=O)CC(=O)O)=O)C=C1
reactant | L-tryptophan methyl ester hydrochloride | 356.6 mg | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
product | {3-[4-(Aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-L-tryptophan methyl ester | COC([C@@H](NC(CN1C(C(CC1=O)CC1=CC=C(C=C1)C=NN)=O)=O)CC1=CNC2=CC=CC=C12)=O | C26H27N5O5
